US06821965B1
3-[3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamido]-4-methyl-N-(3-morpholinophenyl)benzamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.23 g) was added to a stirred mixture of 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid (0.307 g), 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide (0.312 g), 1-hydroxybenztriazole (0.202 g) and DMF (5 ml) which had been cooled to 0° C. The resultant reaction mixture was stirred at ambient temperature for 40 hours. The mixture was partitioned between ethyl acetate and water. The organic phase was washed with water and with a saturated aqueous sodium bicarbonate solution, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica gel using a 3:1 mixture of isohexane and ethyl acetate as eluent. There was thus obtained the title compound as a solid (0.31 g); NMR Spectrum: (DMSOd6) 1.38 (s, 9H), 2.12 (m, 2H), 2.27 (s, 3H), 3.08 (t, 4H), 3.37 (m, 3H), 3.57 (m, 1H), 3.74 (t, 4H), 5.05 (m, 1H), 6.67 (d, 1H), 7.17 (m, 2H), 7.3 (d, 1H), 7.42 (m, 3H), 7.52 (s, 1H), 7.57 (d, 1H), 7.78 (d, 1H), 7.93 (s, 1H), 10.0 (s, 1H), 10.01 (s, 1H); Mass Spectrum: M+H+ 601.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.23 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid | 0.307 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C=C(C(=O)O)C=CC1 | C16H21NO5
reactant | 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide | 0.312 g | NC=1C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=CC1C | C18H21N3O2
reactant | 1-hydroxybenztriazole | 0.202 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-[3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamido]-4-methyl-N-(3-morpholinophenyl)benzamide | 0.31 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC=C3)N3CCOCC3)C=CC2C)C=CC1 | C34H40N4O6
